US05563150
Step 2: (E)-1-Benzyl-3-fluoro-4-(2-phenylethenyl)-1,2,5,6-tetrahydropyridine
Benzyl bromide (0.45 ml, 3.8 mmol) was added to a solution of (E)-3-fluoro-4-(2-phenylethenyl)pyridine (0.6781 g, 3.40 mmol) in anhydrous dimethylformamide (5 ml) and the mixture stirred at 90° C. under nitrogen for 1 hour. The mixture was allowed to cool and diluted with ethanol (50 ml). Sodium borohydride (0.1580 g, 4.18 mmol) was added portionwise and the resulting reaction mixture stirred at room temperature for 2 hours. The mixture was concentrated in vacuo, water (100 ml) added and extracted with diethyl ether (2×100 ml). The extracts were washed with brine (100 ml), combined, dried (MgSO4) and concentrated in vacuo. Careful purification by first flash chromatography, eluting with ethyl acetate/petrol (60°-80°), followed by preparative layer chromatography, eluting with ethyl acetate/dichloromethane/petrol (60°-80°), gave the title compound (0.1058 g, 11%) as a pale yellow solid; δH (CDCl3) 2.43 (2H, m, tetrahydropyridinyl CH2), 2.69 (2H, m, tetrahydropyridinyl CH2), 3.18 (2H, br s, tetrahydropyridinyl CH2), 3.67 (2H, s, PhCH2N), 6.42 (1H, d, J 16.4Hz, CH=CHPh) and 7.20-7.49 (11H, m, CH=CHPh and ArH).

reactant | Benzyl bromide | 3.8 mmol, 0.45 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | (E)-3-fluoro-4-(2-phenylethenyl)pyridine | 3.40 mmol, 0.6781 g | FC=1C=NC=CC1\C=C\C1=CC=CC=C1 | C13H10FN
reactant | Sodium borohydride | 4.18 mmol, 0.1580 g | [BH4-].[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (E)-1-Benzyl-3-fluoro-4-(2-phenylethenyl)-1,2,5,6-tetrahydropyridine | 0.1058 g, 11% | C(C1=CC=CC=C1)N1CC(=C(CC1)\C=C\C1=CC=CC=C1)F | C20H20FN
